US08426602B2
2-Chloro-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile
At 0° C., 50 mg (0.107 mmol) of 2-amino-6-([2-(4-chlorophenyl)-1,3-thiazol-4-yl]methylsulfanyl)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile were dissolved in 1.5 ml of concentrated hydrochloric acid, and 22 mg (0.321 mmol) of sodium nitrite were added. The mixture was stirred initially at 0° C. for one hour and then at room temperature overnight. Purification of the reaction mixture was by preparative HPLC (acetonitrile/water: 10:90→95:5, 0.1% TFA added). This gave 9 mg (17% of theory) of the target compound.

reactant | 2-amino-6-([2-(4-chlorophenyl)-1,3-thiazol-4-yl]methylsulfanyl)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile | 0.107 mmol, 50 mg | NC1=NC(=C(C(=C1C#N)C1=CN=CS1)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C20H11ClN6S3
reactant | sodium nitrite | 0.321 mmol, 22 mg | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
product | 2-Chloro-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile | ClC1=NC(=C(C(=C1C#N)C1=CN=CS1)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C20H9Cl2N5S3
